US07491737B2
Step D: 4-(1H-imidazol-2-yl)piperidine dihydrochloride
A solution of tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate (5.5 g) in methanol was saturated with HCl and the mixture was left standing overnight. Evaporation give the product in quantitative yield. 1H NMR (400 MHz, D2O): 7.29 (s, 2H), 3.51 (br. d, J=13 Hz, 2H), 3.47-3.40 (m, 1H), 3.12 (br. t, J=13 Hz, 2H), 2.29 (br. d, J=14 Hz, 2H), 2.04-1.92 (m, 21).

reactant | tert-butyl 4-(1H-imidazol-2-yl)piperidine-1-carboxylate | 5.5 g | N1C(=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(1H-imidazol-2-yl)piperidine dihydrochloride | quantitative yield | Cl.Cl.N1C(=NC=C1)C1CCNCC1 | InChI=1S/C8H13N3.2ClH/c1-3-9-4-2-7(1)8-10-5-6-11-8;;/h5-7,9H,1-4H2,(H,10,11);2*1H
